US08044043B2
(2R,5R)-2-(tert-butyldimethylsilyloxy)-5-(2,3-difluorophenyl)cycloheptanone.
In a 250 mL round-bottomed flask (t=g) was added 2-(tert-butyldimethylsilyloxy)-5-(2,3-difluorophenyl)cycloheptanol (1.73 g, 4.85 mmol) in CH2Cl2 (50 mL) to give a colorless solution. Dess-Martin Periodinane (2.264 g, 5.34 mmol) was added in one portion, and the mixture was stirred at room temperature overnight. 17 h: TLC showed complete conversion. It was diluted with Et2O and treated with 40 ml saturated Na2S2O3 and Na2HCO3 solution (1/1 mixture) until the milky solution became clear (10 min). The layers were separated and the aqueous layer was extracted with Et2O. The combined organic layers were washed with brine, dried with Na2SO4, and concentrated to a colorless oil (with some solids insoluble in hexane). Purification by FCC up to 40% Et2O in hexane afforded two peaks. They were individually pooled and concentrated. The less polar major one (978 mg, 55%) was a colorless oil. 1H NMR (500 MHz, CDCl3) δ 7.02-6.90 (m, 3H), 4.34 (d, J=4.6 Hz, 1H), 2.82-2.75 (m, 2H), 2.54-2.46 (m, 1H), 2.45-2.32 (m, 1H), 2.17-1.98 (m, 2H), 1.90-1.68 (m, 3H), 0.94 (s, 9H), 0.08 (s, 6H); 13C NMR (125 MHz, CDCl3) δ 213.4, 150.7 (dd, J=247.6 and 13.4 Hz), 147.8 (dd, J=245.7 and 13.4 Hz), 137.5 (d, J=11.5 Hz), 127.7, 122.2, 114.7 (d, J=17.3 Hz), 79.0, 40.0, 39.2, 33.2, 30.7, 29.4, 25.8, 18.2, −5.0. The more polar minor one solidified upon standing to a white solid (698 mg, 39%). It was re-crystallized from hexane and X-ray analysis verified the anti-stereochemistry relation. 1H NMR (500 MHz, CDCl3) δ 7.10-6.97 (m, 2H), 6.97-6.90 (m, 1H), 4.34 (dd, J=3.0 and 9.7 Hz, 1H), 3.04-2.94 (m, 1H), 2.80-2.70 (m, 1H), 2.62-2.50 (m, 1H), 2.18-1.72 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.06 (s, 3H); 13C NMR (125 MHz, CDCl3) δ 211.0, 150.8 (dd, J=248.6 and 13.5 Hz), 148.1 (dd, J=246.7 and 12.5 Hz), 136.4 (d, J=11.5 Hz), 124.2, 122.3, 115.1 (d, J=17.3 Hz), 78.4, 40.3, 39.4, 34.3, 33.0, 30.4, 25.9, 18.5, −4.5, −5.1.

reactant | 2-(tert-butyldimethylsilyloxy)-5-(2,3-difluorophenyl)cycloheptanol | 4.85 mmol, 1.73 g | [Si](C)(C)(C(C)(C)C)OC1C(CCC(CC1)C1=C(C(=CC=C1)F)F)O | C19H30F2O2Si
reactant | Dess-Martin Periodinane | 5.34 mmol, 2.264 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 40 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (2R,5R)-2-(tert-butyldimethylsilyloxy)-5-(2,3-difluorophenyl)cycloheptanone | [Si](C)(C)(C(C)(C)C)O[C@H]1C(CC[C@@H](CC1)C1=C(C(=CC=C1)F)F)=O | C19H28F2O2Si
